US09193719B2
Ethyl 2-(4-fluorophenyl)acetimidate hydrochloride (1.6 g, 7.4 mmol) was suspended in hexanes (18.5 mL) and DCM (18.5 mL) at 0° C. 2,4,6-collidine (3.9 mL, 29.6 mmol) and ethyl chloroformate (1.6 g, 14.8 mmol) were added sequentially and the reaction mixture was allowed to warm to RT and stirred for 12 h. The solvent was removed in vacuo and the residue was suspended in EtOAc (100 mL) and sonicated for 10 minutes. The solids were removed by filtration through a pad of diatomaceous earth and the filter cake was washed with EtOAc (3×10 mL). The combined filtrates were concentrated in vacuo to afford ethyl N-ethoxycarbonyl-2-(4-fluorophenyl)acetimidate (0.99 g, 52.7%) as an amorphous yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 7.25 (dd, J=8.5, 5.6 Hz, 2H), 7.13 (t, J=8.8 Hz, 2H), 4.06 (q, J=7.1 Hz, 2H), 4.04 (q, J=7.1 Hz, 2H), 3.66 (s, 2H), 1.15 (t, J=7.1 Hz, 3H), 1.14 (t, J=7.1 Hz, 3H).

reactant | Ethyl 2-(4-fluorophenyl)acetimidate hydrochloride | 7.4 mmol, 1.6 g | Cl.FC1=CC=C(C=C1)CC(OCC)=N
reactant | 2,4,6-collidine | 29.6 mmol, 3.9 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | ethyl chloroformate | 14.8 mmol, 1.6 g | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 18.5 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-ethoxycarbonyl-2-(4-fluorophenyl)acetimidate | 0.99 g, 52.7% | C(C)OC(=O)N=C(CC1=CC=C(C=C1)F)OCC | C13H16FNO3
